US08633212B2
To a 4 mL vial was placed 6′-bromo-4-hydroxyspiro[cyclohexane-1,2′-inden]-1′(3′H)-one (41 mg, 0.139 mmol) and it was azeotroped with toluene twice (1 mL/each). The solid was dissolved in DMF (1.5 mL). To this solution was added TBDPS-Cl (40 μL, 0.154 mmol) followed by imidazole (24 mg, 0.353 mmol). The reaction was allowed to stir overnight (˜14 hours) at room temperature. The reaction was quenched with H2O (1 mL) and diluted with diethyl ether (1 mL). The phases were separated and the aqueous phase was back extracted twice with diethyl ether (2 mL/each). The combined organic phases were washed with H2O, brine, dried over Na2SO4, filtered and concentrated. The crude material was purified by flash chromatography (ISCO, 12 g SiO2 cartridge, ethyl acetate/hexanes as the eluents). The corresponding fractions were combined and concentrated under reduce pressure yielding 6′-bromo-4-(tert-butyldiphenylsilyloxy)spiro[cyclohexane-1,2′-inden]-1′(3′H)-one (58 mg, 0.109 mmol, 78% yield). M+H=did not ionized. 1H NMR=(CDCl3, 400 MHz) δ 7.83 (d, J=1.6 Hz 1H), 7.69-7.66 (m, 5H), 7.45-7.32 (m, 7H), 3.73 (m, 1H), 2.98 (s, 2H), 1.93-1.89 (m, 2H), 1.62-1.47 (m, 4H), 1.37 (m, 2H), 1.08 (s, 9H).

reactant | 6′-bromo-4-hydroxyspiro[cyclohexane-1,2′-inden]-1′(3′H)-one | 0.139 mmol, 41 mg | BrC1=CC=C2CC3(C(C2=C1)=O)CCC(CC3)O | C14H15BrO2
reactant | TBDPS-Cl | 0.154 mmol, 40 μL | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 0.353 mmol, 24 mg | N1C=NC=C1 | C3H4N2
product | 6′-bromo-4-(tert-butyldiphenylsilyloxy)spiro[cyclohexane-1,2′-inden]-1′(3′H)-one | 0.109 mmol, 58 mg, 78% yield | BrC1=CC=C2CC3(C(C2=C1)=O)CCC(CC3)O[Si](C3=CC=CC=C3)(C3=CC=CC=C3)C(C)(C)C | C30H33BrO2Si
